* Extracted by KLayout with SG13G2 LVS runset on : 03/08/2026 15:44

.SUBCKT sg13g2_IOPadVdd iovss iovss$1 vdd vss
R$1 iovss$1 \$1 ptap1 A=2066.7843p P=818.18u
R$2 vss \$1 ptap1 A=24p P=160.6u
M$3 iovss \$10 vdd \$1 sg13_hv_nmos L=0.6u W=756.8u AS=344.608p AD=349.36p
+ PS=931.04u PD=933.2u rfmode=0
D$175 \$1 \$10 dantenna A=0.2304p P=1.92u m=1
R$176 iovss \$1 ptap1 A=65.6472p P=386.16u
M$177 iovss$1 vdd iovss$1 \$1 sg13_hv_nmos L=9.5u W=126u AS=26.64p AD=23.94p
+ PS=149.92u PD=131.32u rfmode=0
M$184 iovss$1 vdd \$10 \$1 sg13_hv_nmos L=0.5u W=108u AS=20.52p AD=23.22p
+ PS=112.56u PD=131.16u rfmode=0
M$203 vdd vdd \$10 vdd sg13_hv_pmos L=0.5u W=350u AS=67.55p AD=67.55p PS=376.3u
+ PD=376.3u rfmode=0
.ENDS sg13g2_IOPadVdd
